US07851493B2
4.8 g 5-Hydroxymethyl-2-(4-methoxy-phenyl)-oxazole-4-carboxylic acid ethyl ester were dissolved in 75 ml dichloromethane. 1.9 ml 3,4-dihydro-2H-pyran and 870 mg pyridinium p-toluenesulfonate were added and the reaction mixture stirred at room temperature over night. The solvent was removed in vacuo and the residue purified by flash chromatography on silica gel (eluting with n-heptane:ethyl acetate=3:1=>1:1) to obtain 5.3 g 2-(4-methoxy-phenyl)-5-(tetrahydro-pyran-2-yloxymethyl)-oxazole-4-carboxylic acid ethyl ester.

reactant | 5-Hydroxymethyl-2-(4-methoxy-phenyl)-oxazole-4-carboxylic acid ethyl ester | 4.8 g | C(C)OC(=O)C=1N=C(OC1CO)C1=CC=C(C=C1)OC | C14H15NO5
reactant | 3,4-dihydro-2H-pyran | 1.9 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 870 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2-(4-methoxy-phenyl)-5-(tetrahydro-pyran-2-yloxymethyl)-oxazole-4-carboxylic acid ethyl ester | 5.3 g | C(C)OC(=O)C=1N=C(OC1COC1OCCCC1)C1=CC=C(C=C1)OC | C19H23NO6
